US04059433
A mixture of 38 g of 3-amino-2-cyano-3-ethoxypropenethioamide (above) and 400 ml of ethanol was heated to the reflux temperature. To the hot mixture was added 26.0 ml of 30% hydrogen peroxide at a rate sufficient to maintain reflux. After addition was complete the reaction mixture was heated under reflux during one half hour. To the mixture was added 100 ml of ethanol, and reflux was continued during an additional one half hour, at which time thin-layer chromatography indicated that the reaction was complete. The reaction mixture was filtered hot. The filtrate was allowed to cool slowly overnight to give 26.0 g of 5-amino-4-cyano-3-ethoxyisothiazole; m.p. 216°-217°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-ethoxypropenethioamide | 38 g | NC(=C(C(N)=S)C#N)OCC | C6H9N3OS
reactant | hydrogen peroxide | 26.0 ml | OO | H2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-3-ethoxyisothiazole | 26.0 g | NC1=C(C(=NS1)OCC)C#N | C6H7N3OS
